US07812341B2
(Synthesis of 1,3-bis[2-(2,2′:6′2″-terpyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene (hereinafter referred to as TpyOXDm) (9))
2.0 g of 6-(2H-tetrazol-5-yl)-2,2′:6′2″-terpyridine was dissolved in 50 ml of dehydrated pyridine. Temperature was elevated to 120° C., and 30 ml was dehydrated by azeotropy. After cooling to 50° C., 0.68 g of isophthaloyl dichloride was added. Temperature was elevated to 110° C., and stirring was conducted for 3 hours under flux. After cooling to room temperature, the reaction solution was poured into 200 ml water, and a precipitated yellowish-brown solid was taken out by suction filtration, and washed with water. The solid obtained was vacuum dried at 80° C. for 20 hours, and purified with adsorption purification (carrier: NH silica gel, eluting solution: chloroform) to obtain 1.53 g (yield 67%) of TpyOXDm. The product was identified with NMR analysis. The result of NMR analysis (CDCl3) was as follows. 9.12 ppm (1H), 8.85 ppm (2H), 8.62-8.73 ppm (6H), 8.37-8.51 ppm (6H), 7.79-8.12 ppm (7H), 7.35 ppm (2H).

reactant | 6-(2H-tetrazol-5-yl)-2,2′:6′2″-terpyridine | 2.0 g | N=1NN=NC1C1=CC=CC(=N1)C1=NC(=CC=C1)C1=NC=CC=C1 | C16H11N7
reactant | isophthaloyl dichloride | 0.68 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | water | 200 ml | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1,3-bis[2-(2,2′:6′2″-terpyridin-6-yl)-1,3,4-oxadiazol-5-yl]benzene | yield 67% | N1=C(C=CC=C1C=1OC(=NN1)C1=CC(=CC=C1)C1=NN=C(O1)C1=CC=CC(=N1)C1=NC(=CC=C1)C1=NC=CC=C1)C1=NC(=CC=C1)C1=NC=CC=C1 | C40H24N10O2
